US08202873B2
Combine 3′-chloro-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl dihydrochloride (2.21 g, 8.18 mmol), 1-ethyl-3-methyl-1H-pyrazole-4-carbaldehyde (1.3 g, 9.40 mmol) and triethylamine (1.31 mL, 9.40 mmol) in dichloroethane (50 mL). Add glacial acetic acid (0.85 mL) followed by sodium triacetoxyborohydride (2.99 g, 14.1 mmol). Stir at room temperature for 20 hr. Dilute with saturated aq. sodium bicarbonate then extract three times using DCM. Dry (sodium sulfate), filter, concentrate and purify (silica gel chromatography, eluting with 4.5:95.5 methanol (with 2 M ammonia):DCM), to give 3′-chloro-4-(1-ethyl-3-methyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl as a yellow oil (1.702 g, 65%). MS (ES): m/z=321 [M+H]+.

reactant | 3′-chloro-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl dihydrochloride | 8.18 mmol, 2.21 g | Cl.Cl.ClC=1C(=NC=CN1)N1CCNCC1
reactant | 1-ethyl-3-methyl-1H-pyrazole-4-carbaldehyde | 9.40 mmol, 1.3 g | C(C)N1N=C(C(=C1)C=O)C | C7H10N2O
reactant | triethylamine | 9.40 mmol, 1.31 mL | C(C)N(CC)CC | C6H15N
reactant | sodium triacetoxyborohydride | 14.1 mmol, 2.99 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 50 mL | ClC(C)Cl | C2H4Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 0.85 mL | C(C)(=O)O | C2H4O2
product | 3′-chloro-4-(1-ethyl-3-methyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 1.702 g, 65% | ClC=1C(=NC=CN1)N1CCN(CC1)CC=1C(=NN(C1)CC)C | C15H21ClN6
